US07361672B2
64.3 A suspension of 60 mg [2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-2-(3-nitro-2-oxo-pyridin-1-yl)-acetamide in 1 ml acetic acid was treated portionwise with 82 mg activated zinc powder. The reaction mixture was stirred for 3 hrs at r.t. The solid was filtered off and washed carefully with EtOH. The filtrate was concentrated. The crude product was purified by chromatography (silica, gradient CH2Cl2->CH2Cl2/MeOH 95:5) to give 39 mg 2-(3-amino-2-oxo-pyridin-1-yl)-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-acetamide as off-white solid. MS 355.0 ([M+H]+)

reactant | [2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-2-(3-nitro-2-oxo-pyridin-1-yl)-acetamide | 60 mg | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)C(C(=O)N)N1C(C(=CC=C1)[N+](=O)[O-])=O | C18H13FN4O5
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
product | 2-(3-amino-2-oxo-pyridin-1-yl)-[2-fluoro-4-(2-oxo-pyridin-1-yl)-phenyl]-acetamide | 39 mg | NC=1C(N(C=CC1)C(C(=O)N)C1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O | C18H15FN4O3
